US08859777B2
Step 3: Preparation of 2-Benzyl-3-[4-(4-chlorophenyl)-4-fluoropiperidin-1-yl]propionic acid Hydrochloride.
To a solution of methyl 2-benzyl-3-[4-(4-chlorophenyl)-4-fluoropiperidin-1-yl]propionate hydrochloride in methanol (2.5 mL) was added 50% aqueous sodium hydroxide solution (1 mL) and the resulting solution heated to reflux under N2 for 14 hours. After this time the reaction was cooled and concentrated. The residue was treated with 2N hydrochloric acid (6 mL) and the mixture stirred for 1 hr. The reaction was then extracted with 2-butanone (3×10 mL) and the extracts dried over magnesium sulfate, filtered and concentrated. The oily residue was re-dissolved in EtOAc (10 mL) re-filtered and concentrated. The residue was then re-dissolved in 2-butanone and concentrated to afford a yellow foam. This material was dried under high vacuum for 16 hours to afford a 55% yield of the title compound as a yellow foam.

reactant | methyl 2-benzyl-3-[4-(4-chlorophenyl)-4-fluoropiperidin-1-yl]propionate hydrochloride | Cl.C(C1=CC=CC=C1)C(C(=O)OC)CN1CCC(CC1)(F)C1=CC=C(C=C1)Cl
reactant | sodium hydroxide | 1 mL | [OH-].[Na+]
solvent | methanol | 2.5 mL | CO | CH4O
product | 2-Benzyl-3-[4-(4-chlorophenyl)-4-fluoropiperidin-1-yl]propionic acid Hydrochloride | 55% yield | Cl.C(C1=CC=CC=C1)C(C(=O)O)CN1CCC(CC1)(F)C1=CC=C(C=C1)Cl | InChI=1S/C21H23ClFNO2.ClH/c22-19-8-6-18(7-9-19)21(23)10-12-24(13-11-21)15-17(20(25)26)14-16-4-2-1-3-5-16;/h1-9,17H,10-15H2,(H,25,26);1H
